US05624935
6-Methoxy-2-methylamino-3-nitropyridine
19 ml of a 28% methanolic solution of sodium methoxide were added dropwise to a solution of 6.00 g of 6-chloro-2-methylamino-3-nitropyridine (prepared as described in Preparation 66) in 120 ml of methanol at room temperature, and the resulting mixture was stirred at room temperature for 3 hours. At the end of this time, the reaction mixture was poured into water, after which it was extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue was crystallized by trituration with ethanol, to give 5.34 g of the title compound, melting at 152°-153° C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 6-chloro-2-methylamino-3-nitropyridine | 6.00 g | ClC1=CC=C(C(=N1)NC)[N+](=O)[O-] | C6H6ClN3O2
reactant | water | O | H2O
solvent | methanol | 120 ml | CO | CH4O
product | 6-Methoxy-2-methylamino-3-nitropyridine | 5.34 g | COC1=CC=C(C(=N1)NC)[N+](=O)[O-] | C7H9N3O3
